US04053601
3-(2-Hydroxy-4-methylbenzoyl)propionic acid was esterified with methanol-hydrogen chloride, in a similar manner to the procedure described in Example 1 (i), to give methyl 3-(2-hydroxy-4-methylbenzoyl)propionate, m.p. 61°-63°.

reactant | 3-(2-Hydroxy-4-methylbenzoyl)propionic acid | OC1=C(C(=O)CCC(=O)O)C=CC(=C1)C | C11H12O4
reactant | methanol hydrogen chloride | CO.Cl
product | methyl 3-(2-hydroxy-4-methylbenzoyl)propionate | OC1=C(C(=O)CCC(=O)OC)C=CC(=C1)C | C12H14O4
